US05270327
1-(4,5-dichloro-3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperidine hydrochloride
From 1.18 g of 2-(pyrrolidin-1-ylmethyl)piperidine, 2.03 g of 4,5-dichloro-3-oxoindan-1-carbonyl chloride and 1.47 ml of triethylamine. 0.95 g of the title compound was obtained, melting at 148°-150° C. (dec) using a procedure similar to that in Example 2.

reactant | 2-(pyrrolidin-1-ylmethyl)piperidine | 1.18 g | N1(CCCC1)CC1NCCCC1 | C10H20N2
reactant | 4,5-dichloro-3-oxoindan-1-carbonyl chloride | 2.03 g | ClC1=C2C(CC(C2=CC=C1Cl)C(=O)Cl)=O | C10H5Cl3O2
solvent | triethylamine | 1.47 ml | C(C)N(CC)CC | C6H15N
product | 1-(4,5-dichloro-3-oxoindan-1-carbonyl)-2-(pyrrolidin-1-ylmethyl)piperidine hydrochloride | 0.95 g | Cl.ClC1=C2C(CC(C2=CC=C1Cl)C(=O)N1C(CCCC1)CN1CCCC1)=O | InChI=1S/C20H24Cl2N2O2.ClH/c21-16-7-6-14-15(11-17(25)18(14)19(16)22)20(26)24-10-2-1-5-13(24)12-23-8-3-4-9-23;/h6-7,13,15H,1-5,8-12H2;1H
